US05373002
The same procedure as in Example 1-1) was carried out by using (2S, 4S)-2-[3-hydroxymethyl-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]-4-mercapto-N-(p-nitrobenzyloxycarbonyl)pyrrolidine diastereomer A (3.34 g, 5.42 mmol, compound of Reference Example 5) and p-nitrobenzyl (1R, 5S, 6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (3.22 g, 5.42 mmol) to obtain p-nitrobenzyl (1R, 5S, 6S)- 6-[(R)-1-hydroxyethyl]-2-[(2S,4S)-2-[3-hydroxymethyl-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-1-methyl-1-carbapen-2-em-3-carboxylate diastereomer A (2.81 g, yield: 57.3%).

reactant | (2S, 4S)-2-[3-hydroxymethyl-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]-4-mercapto-N-(p-nitrobenzyloxycarbonyl)pyrrolidine | OCC1CN(CC1[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H28N4O9S
reactant | p-nitrobenzyl (1R, 5S, 6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 5.42 mmol, 3.22 g | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O10P
product | p-nitrobenzyl (1R, 5S, 6S)- 6-[(R)-1-hydroxyethyl]-2-[(2S,4S)-2-[3-hydroxymethyl-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-1-methyl-1-carbapen-2-em-3-carboxylate | yield: 57.3% | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C2C(CN(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])CO)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C42H44N6O15S
